US05374732
In an inert gas atmosphere, to a mixture of sodium hydride (120 mg, 3 mmol) and tetrahydrofuran (6 ml), ethyl 2-oxocyclopentanecarboxylate (445 μl, 3 mmol) was added and then N-fluoro-4,6-dimethylpyridinium-2-sulfonate (615 mg) was added while cooling with ice, followed by stirring at room temperature for 1.5 hours. The reaction mixture was filtrated and the obtained crystal was washed with tetrahydrofuran and ethyl ether successively to obtain sodium 4,6-dimethylpyridine-2-sulfonate (535 mg). Yield, 85%.

reactant | sodium hydride | 3 mmol, 120 mg | [H-].[Na+]
reactant | ethyl 2-oxocyclopentanecarboxylate | 3 mmol, 445 μl | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | N-fluoro-4,6-dimethylpyridinium-2-sulfonate | 615 mg | F[N+]1=C(C=C(C=C1C)C)S(=O)(=O)[O-] | C7H8FNO3S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | sodium 4,6-dimethylpyridine-2-sulfonate | 535 mg | CC1=CC(=NC(=C1)C)S(=O)(=O)[O-].[Na+] | InChI=1S/C7H9NO3S.Na/c1-5-3-6(2)8-7(4-5)12(9,10)11;/h3-4H,1-2H3,(H,9,10,11);/q;+1/p-1
